US09126931B2
3-Chloro-8-(2-diethylaminoethoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (CH5263231-000)
3-Chloro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound S2-1, 10 mg, 0.03207 mmol) was dissolved in DMF (0.1 mL), added with (2-chloroethyl)diethylamine (5.5 mg, 0.03207 mmol) and cesium carbonate (20.9 mg, 0.06414 mmol), and stirred at 80° C. for 2 hr. The reaction solution was added to water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate. The residues obtained after concentration under reduced pressure were purified by NH silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (11.6 mg, 76%).

reactant | 3-Chloro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.03207 mmol, 10 mg | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)O)=O | C18H14ClNO2
reactant | (2-chloroethyl)diethylamine | 0.03207 mmol, 5.5 mg | ClCCN(CC)CC | C6H14ClN
reactant | cesium carbonate | 0.06414 mmol, 20.9 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-8-(2-diethylaminoethoxy)-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 11.6 mg, 76% | ClC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OCCN(CC)CC)=O | C24H27ClN2O2
